US06177452B1
Sodium hydride (60%, oil, 130mg) was gradually added to a N,N-dimethylformamide solution (30ml) of N-(2-chloroethyl)-4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolebutyramide (870mg) at room temperature. After stirring for 4 hours at room temperature, the reaction mixture was poured into ice water. And this was extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO,). 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-[3-(2-oxazolin-2-yl)propyl]oxazole (615mg, 78%) was obtained by evaporating the solvent. This was recrystallized from acetone-isopropyl ether to give colorless prisms. mp 88-89° C.

reactant | Sodium hydride | 130mg | [H-].[Na+]
reactant | N-(2-chloroethyl)-4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolebutyramide | 870mg | ClCCNC(CCCC1=C(N=C(O1)N1C(=NC=C1)C)C1=CC=C(C=C1)Cl)=O | C19H20Cl2N4O2
solvent | N,N-dimethylformamide | 30ml | CN(C=O)C | C3H7NO
product | 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-[3-(2-oxazolin-2-yl)propyl]oxazole | 615mg, 78% | ClC1=CC=C(C=C1)C=1N=C(OC1CCCC=1OCCN1)N1C(=NC=C1)C | C19H19ClN4O2
